US08633182B2
Step 1: (1S,2S)-2-(4-{(R)-4-[4-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-5-trifluoromethyl-indan-1-yloxy}-phenyl)-cyclopropanecarboxylic acid ethyl ester
(1S,2S)-2-[4-((R)-4-Bromo-5-trifluoromethyl-indan-1-yloxy)-phenyl]-cyclopropanecarboxylic acid ethyl ester (200 mg, 0.43 mmol), 4-(tertbutyldimethylsilyloxy)phenylboronic acid (118 mg, 0.47 mmol) potassium carbonate (176 mg, 1.28 mmol), 2,6-di-tert-butyl-4-methylphenol (47 mg, 0.21 mmol), tricyclohexylphosphine (10 mg, 0.03 mmol), and Pd2(dba)3 (16 mg, 0.02 mmol) are suspended in a mixture of dioxane (1.7 mL) and water (0.6 mL) in a sealed tube and heated at 110° C. for 4 hours. The mixture is diluted with saturated ammonium chloride solution and extracted with ethyl acetate. The organic phase is dried and concentrated under vacuum. The residue is purified by flash chromatography (eluent: 0-30% EtOAc in cyclohexane) to give the title compound (Yield 90 mg)

reactant | (1S,2S)-2-[4-((R)-4-Bromo-5-trifluoromethyl-indan-1-yloxy)-phenyl]-cyclopropanecarboxylic acid ethyl ester | 0.43 mmol, 200 mg | C(C)OC(=O)[C@@H]1[C@H](C1)C1=CC=C(C=C1)O[C@@H]1CCC2=C(C(=CC=C12)C(F)(F)F)Br | C22H20BrF3O3
reactant | 4-(tertbutyldimethylsilyloxy)phenylboronic acid | 0.47 mmol, 118 mg | C(C)(C)(C)[Si](OC1=CC=C(C=C1)B(O)O)(C)C | C12H21BO3Si
reactant | 2,6-di-tert-butyl-4-methylphenol | 0.21 mmol, 47 mg | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | tricyclohexylphosphine | 0.03 mmol, 10 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | dioxane | 1.7 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.6 mL | O | H2O
solvent | ammonium chloride | [Cl-].[NH4+]
catalyst | Pd2(dba)3 | 0.02 mmol, 16 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (1S,2S)-2-(4-{(R)-4-[4-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-5-trifluoromethyl-indan-1-yloxy}-phenyl)-cyclopropanecarboxylic acid ethyl ester | Yield 90 mg | C(C)OC(=O)[C@@H]1[C@H](C1)C1=CC=C(C=C1)O[C@@H]1CCC2=C(C(=CC=C12)C(F)(F)F)C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C | C34H39F3O4Si
